US06919355B2
a) 6-Amino-5-nitro-3H-benzoxazol-2-one
To a solution of 2.0 g (13.3 mmol) of 6-amino-3H-benzoxazol-2-one [J. Chem. Soc., 321 (1938)] in 20 ml of trifluoroacetic acid 1.2 g (14.1 mmol) of sodium nitrate is added below 20° C. The reaction mixture is stirred at room temperature overnight, then concentrated. The residue is purified by column chromatography using Kieselgel 60 as adsorbent (Merck) and toluene:methanol=4:1 as eluent to yield 2.50 g (96%) of the title compound. Mp.: 198° C. (toluene—methanol).

reactant | 6-amino-3H-benzoxazol-2-one | 13.3 mmol, 2.0 g | NC1=CC2=C(NC(O2)=O)C=C1 | C7H6N2O2
reactant | trifluoroacetic acid | 14.1 mmol, 20 ml, 1.2 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium nitrate | [N+](=O)([O-])[O-].[Na+]
product | 6-Amino-5-nitro-3H-benzoxazol-2-one | 2.50 g, 96% | NC1=CC2=C(NC(O2)=O)C=C1[N+](=O)[O-] | C7H5N3O4
